US04957917
5-Trimethylsilyl-3-furaldehyde is treated with carbon tetrabromide and triphenylphosphine in dichloromethane at 0° to give 3-(2,2-dibromoethenyl)-5-trimethylsilylfuran. Treating with n-butyl lithium and 5-phenylpentyl iodide and hexamethylphosphoramide gives 3-(7-phenyl-1-heptynyl)-5-trimethylsilylfuran.

reactant | 5-Trimethylsilyl-3-furaldehyde | C[Si](C1=CC(=CO1)C=O)(C)C | C8H12O2Si
reactant | carbon tetrabromide | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(2,2-dibromoethenyl)-5-trimethylsilylfuran | BrC(=CC1=COC(=C1)[Si](C)(C)C)Br | C9H12Br2OSi
